US05821239
4-Ethylamino-3-pyridinol N,N-diethylcarbamate
4-Acetylamino-3-pyridinol N,N-diethylcarbamate (3.43 g) was dissolved in tetrahydrofuran (75 mL) and then the reaction mixture was chilled in an ice-water bath. Borane/methyl sulfide (BMS) was added (3.25 mL, 2.60 g) and the reaction mixture was stirred in the cold bath for 30 minutes. At the end of this time an additional 3.0 mL of BMS was added and stirring was continued for 3 hours. The reaction mixture was then poured into ice/conc. HCl, stirred for 30 minutes, basified with NH3 /water and then extracted with ethyl acetate. The organic phase was then dried, concentrated and purified by flash chromatography to give 0.86 g of chromatographically pure product. This product was combined with a crop obtained from another run and recrystallized from hexane to give an analytically pure material, mp. 107°-108° C.

reactant | 4-Acetylamino-3-pyridinol N,N-diethylcarbamate | 3.43 g | C(C)N(C(=O)OC=1C=NC=CC1NC(C)=O)CC | C12H17N3O3
reactant | Borane methyl sulfide | B.CSC
reactant | HCl | Cl | ClH
reactant | NH3 water | N.O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 4-Ethylamino-3-pyridinol N,N-diethylcarbamate | C(C)N(C(=O)OC=1C=NC=CC1NCC)CC | C12H19N3O2
